US07435837B2
Treatment of 4-chloro-2-methoxyphenol (15.00 g, 0.10 mol) with sodium hydride (4.4 g, 0.11 mol, 60 wt. %) and 3-chloro-2-methylpropene (12.00 g, 0.12 mol) generally according to the procedure described for Intermediate 13 provided 19.3 g (91%) of 4-chloro-2-methoxy-1-[(2-methylprop-2-enyl)oxy]benzene as a colorless oil. Treatment of the allyl ether in refluxing mesitylene generally according to the procedure described for Intermediate 8 afforded 15.5 g (78%) of 4-chloro-2-methoxy-6-(2-methylprop-2-enyl)phenol as a pale yellow oil. Treatment of 4-chloro-2-methoxy-6-(2-methylprop-2-enyl)phenol (10.00 g, 0.047 mol) with 3-chloroperoxybenzoic acid (20.00 g, 0.089 mol, 77%) followed by potassium carbonate (20.00 g, 0.145 mol) generally according to the Procedure described for Intermediate 9 provided 8.00 g (74%) of (±)-(5-chloro-7-methoxy-2-methyl-2,3-dihydro-1-benzofuran-2-yl)methanol as a light yellow oil. Treatment of (±)-(5-chloro-7-methoxy-2-methyl-2,3-dihydro-1-benzofuran-2-yl)methanol (10.8 g, 0.047 mol) with p-toluenesulfonyl chloride (13.5 g, 0.071 mol), diisopropylethylamine (12.15 g, 0.094 mol), and 4-(dimethylamino)pyridine (0.35 g, 2.83 mmol) generally according to the procedure described for Intermediate 45 gave 13.8 g (76%) of (±)-(5-chloro-7-methoxy-2-methyl-2,3-dihydro-1-benzofuran-2-yl)methyl 4-methylbenzenesulfonate as a white solid. mp 113-115° C.; Anal. calcd. for C18H19ClO5S: C, 56.47; H, 5.00. Found: C, 55.82; H, 4.94.

reactant | (±)-(5-chloro-7-methoxy-2-methyl-2,3-dihydro-1-benzofuran-2-yl)methanol | 0.047 mol, 10.8 g | ClC=1C=C(C2=C(CC(O2)(C)CO)C1)OC | C11H13ClO3
reactant | p-toluenesulfonyl chloride | 0.071 mol, 13.5 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
reactant | diisopropylethylamine | 0.094 mol, 12.15 g | C(C)(C)N(CC)C(C)C | C8H19N
catalyst | 4-(dimethylamino)pyridine | 2.83 mmol, 0.35 g | CN(C1=CC=NC=C1)C | C7H10N2
product | (±)-(5-chloro-7-methoxy-2-methyl-2,3-dihydro-1-benzofuran-2-yl)methyl 4-methylbenzenesulfonate | 13.8 g, 76% | CC1=CC=C(C=C1)S(=O)(=O)OCC1(OC2=C(C1)C=C(C=C2OC)Cl)C | C18H19ClO5S
